US08022205B2
3-[7-(3-Dimethylamino-propyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-phenol (A-24)
In the same manner as Example 1-A-01, from 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine and N,N-dimethyl-1,3-propanediamine, {3-[4-(3-methoxy-phenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-propyl}-dimethyl-amine was obtained, and subsequently, further in the same manner as Example 1-A-09, the desired compound was obtained.

reactant | 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine | ClC1=NC(=NC(=C1CCCl)C1=CC(=CC=C1)OC)N1CCOCC1 | C17H19Cl2N3O2
reactant | N,N-dimethyl-1,3-propanediamine | CN(CCCN)C | C5H14N2
reactant | {3-[4-(3-methoxy-phenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-propyl}-dimethyl-amine | COC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)CCCN(C)C | C22H31N5O2
product | 3-[7-(3-Dimethylamino-propyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-phenol | CN(CCCN1CCC2=C1N=C(N=C2C=2C=C(C=CC2)O)N2CCOCC2)C | C21H29N5O2
